* Z:\mnt\spice-netlists\LTC3890_BUCK_SEPIC.asc
V1 IN 0 5
M§Q1 IN N004 N009 N009 Si4896DY
M§Q2 N009 N011 0 0 Si4896DY
D1 N001 N006 1N4148
C1 N001 0 4.7µ
C2 N006 N009 .1µ
L1 N009 N010 3.3µ
R1 N010 OUT2 3m
C3 OUT2 0 330µ
R2 OUT2 N016 100K
R3 N016 0 31.6K
C4 N020 0 1n
C5 N022 0 .001µ
M§Q3 N008 N003 N013 N013 Si4896DY
C6 N001 0 .1µ
C7 N017 0 4.7n
C8 N021 0 .001µ
XU1 N014 N023 N025 N024 NC_01 0 N002 N002 OUT2 N010 N016 N019 N022 NC_02 N004 N009 N006 N011 N001 NC_03 0 IN NC_04 N001 0 N003 NC_05 NC_06 N021 N018 N015 N012 LTC3890
L2 N008 IN 4.7µ
L3 N007 0 4.7µ
C9 N008 N007 10µ
C10 OUT1 0 220µ
R4 N012 N013 511
R5 N014 0 511
C11 N012 N014 1n
R6 N001 N005 1K
C12 N005 0 0.1µ
R7 N005 N012 2K
R8 N005 N014 2K
R9 N013 0 6m
R10 OUT1 N015 100K
R11 N015 0 7.15K
R12 N023 0 42K
D2 N007 OUT1 PDS760
R13 IN N002 511K
Rload1 OUT1 0 6
Rload2 OUT2 0 0.33
R14 N019 N020 15K
C13 N018 0 47p
R15 N018 N017 7.8K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
K L2 L3 1
* 3.3V @ 10A
* 12V @ 2.0A
* LTC3890 - 60V Low IQ, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nDual Buck/SEPIC Controller for Automotive or Industrial Supplies\nInput: 5V to 35V     Output: 3.3V @ 10A (BUCK) and 12V @ 2A (SEPIC)\nSEPIC topology enables this circuit to generate 12V output even when the input drops to 5V during cold crank
* Note: \nIf the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\nIt remains the customer's responsibility to verify proper and reliable operation in the actual application.\nComponent substitution and printed circuit board layout may significantly affect circuit performance or reliability.\nContact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\nCopyright © 2012 Linear Technology Inc.  All rights reserved.
.lib LTC3890.sub
.backanno
.end
